US08071587B2
(a). Formylamino-thiophen-2-yl-acetic acid
To a solution of amino-thiophen-2-yl-acetic acid (5 g) in formic acid (50 ml) was added acetic acid (18 ml). After stirring at room temperature for 6 h, water (25 ml) was added. The reaction mixture was stirred for 30 min. The mixture was concentrated in vacuo and triturated with water. The solids were collected by filtration and dried in vacuo (50° C.).

reactant | amino-thiophen-2-yl-acetic acid | 5 g | NC(C(=O)O)C=1SC=CC1 | C6H7NO2S
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
reactant | water | 25 ml | O | H2O
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | Formylamino-thiophen-2-yl-acetic acid | C(=O)NC(C(=O)O)C=1SC=CC1 | C7H7NO3S
